US09062055B2
Step 2. 1-[1-(3-Fluorophenyl)-1H-indol-2-yl]ethanone
To a mixture of 1-(3-fluorophenyl)-N-methoxy-N-methyl-1H-indole-2-carboxamide (0.52 g, 1.7 mmol) in tetrahydrofuran (10 mL) was added 3.0 M methylmagnesium bromide in ether (4.6 mL, 0.014 mol). The reaction was stirred at room temperature overnight. The reaction was quenched with saturated NH4Cl solution and extracted with EtOAc. The combined organic layers were washed with water and brine, dried over MgSO4, and concentrated to give crude product (0.4 g, 91%). The crude product was used directly in next step. LCMS calculated for C16H13FNO(M+H)+: m/z=254.1. Found: 254.1.

reactant | 1-(3-fluorophenyl)-N-methoxy-N-methyl-1H-indole-2-carboxamide | 1.7 mmol, 0.52 g | FC=1C=C(C=CC1)N1C(=CC2=CC=CC=C12)C(=O)N(C)OC | C17H15FN2O2
reactant | methylmagnesium bromide | 3.0 M | C[Mg]Br
reactant | ether | 0.014 mol, 4.6 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-[1-(3-Fluorophenyl)-1H-indol-2-yl]ethanone | 0.4 g, 91% | FC=1C=C(C=CC1)N1C(=CC2=CC=CC=C12)C(C)=O | C16H12FNO
